US08357693B2
To a suspension of tert-butyl 5-(2-(3-aminophenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate (85 mg, 0.19 mmol) and methyl 2-chloro-2-oxoacetate (35 pt, 0.38 mmol) in CH2Cl2 (1 mL) was added Et3N (53 uL, 0.38 mmol), and catalytic amount of DMAP. The reaction mixture was stirred at RT for 3 h. The reaction was concentrated in vacuo and the residue was purified by flash chromatography on silica (10:1 CH2Cl2:MeOH). The product tert-butyl 5-(2-(3-(2-methoxy-2-oxoacetamido)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate was isolate. (18 mg, 18%)

reactant | tert-butyl 5-(2-(3-aminophenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | 0.19 mmol, 85 mg | NC=1C=C(C=CC1)C1=NC2=CC=CC=C2C(=N1)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C | C26H24N6O2
reactant | methyl 2-chloro-2-oxoacetate | 0.38 mmol | ClC(C(=O)OC)=O | C3H3ClO3
reactant | Et3N | 0.38 mmol, 53 uL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | tert-butyl 5-(2-(3-(2-methoxy-2-oxoacetamido)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | COC(C(=O)NC=1C=C(C=CC1)C1=NC2=CC=CC=C2C(=N1)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C)=O | C29H26N6O5
